Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/HTN, depression, osteoporosis p/w chest pain x2days. Pt 
notes chest pain first appeared day before admission. She was 
sitting down and suddenly developed a pressure, ___ over the 
middle of her chest, radiating to the left and back. She took 
her morning medications and the pain went away. It was 
associated w/diaphoresis. The same chest pain returned the 
following day, suddenly, and went away on its own. Her daughter 
notes she has not felt well all day but could not pinpoint why. 
She denies any shortness of breath,visual changes, fevers, 
chills, N/V, abdominal pain. She notes feeling diaphoretic 
yesterday and now on exam. She notes having swelling in her 
legs, with her left being more swollen than the right. She also 
notes feeling very warm. No constipation, diarrhea, no blood in 
the stool or urine. 

 
Past Medical History:
hypertension
Bilateral knee osteoarthritis
L wrist surgery
depression
anxiety
 
Social History:
___
Family History:
Mother:died at ___ with stomach and cardiac problems
Father:died at ___ in World War II

 
Physical Exam:
T: 96 BP: 158-162/88-90 HR:101-140 RR: 22 O2 98% 2L
Gen: Pleasant, elderly woman in NAD. 
HEENT: NCAT, slightly diaphoretic. No conjunctival pallor. 
Anicteric. MMM. 
NECK: Supple, no thyromegaly. JVP 
CV: irreg irreg ~100 S1, S2. No murmurs, rubs ___
LUNGS: CTAB, good BS ___, No W/R/C
ABD: Obese, soft, NT, ND. 
EXT: WWP, 1+ edema to below knee on R, 2+ edema below mid-shin 
and ankle on R, 1+ DP pulses ___
SKIN: No rashes. 
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. Normal coordination. Gait assessment 
deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
___ 02:10PM   ___ PTT-22.5 ___
___ 02:10PM   PLT COUNT-264
___ 02:10PM   NEUTS-51.3 ___ MONOS-5.8 EOS-0.7 
BASOS-0.5
___ 02:10PM   WBC-7.9 RBC-4.80 HGB-14.0 HCT-41.5 MCV-86 
MCH-29.2 MCHC-33.8 RDW-13.5
___ 02:10PM   CK-MB-NotDone
___ 02:10PM   cTropnT-<0.01
___ 02:10PM   CK(CPK)-50
___ 02:10PM   GLUCOSE-143* UREA N-18 CREAT-1.1 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-28 ANION GAP-14
.
___ Echo
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. No mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Aortic valve sclerosis.

 
Brief Hospital Course:
___ F w/HTN, depression, osteoporosis p/w chest pain x2days. On 
atrial fibrillation on telemetry.  
.  
#Chest pain: Patient ruled out by EKG, telemetry and CE.  Likely 
secondary to tachycardia in setting of afib with RVR.  Patient 
improved with rate control.   Echo completed.  
.  
#New-onset trial fibrillation: Newly diagnosed, Paroxsyml.  
CHADS score 2, patient is candidate for coumadin therapy.  
.  
#Lower extremity edema: Continued home lasix dose. 
.  
#HTN: BP stable since admission. Home medications continued. 
.  
#Depression/anxiety: Continued on citalopram, clonazepam and 
zolpidem.  
.
# CODE: full  
.  
# COMM: ___ ___  

 
Medications on Admission:
atenolol 25mg PO qd
clonazepam 0.25mg PO bid
primidone 50mg PO qhs
diovan 160mg/25mg PO BID
zolpidem 10mg PO qhs
atorvastatin 10mg
citalopram 20mg Daily
furosemide 20mg Daily
.

 
Discharge Medications:
1. Primidone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Clonazepam 0.5 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day) as needed for anxiety.  
7. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).  
8. Valsartan 160 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Warfarin 2 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*2*
10. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Atrial Fibrillation
Atypical Chest Pain

 
Discharge Condition:
Stable, normal sinus rhythm, ambulating without difficulty

 
Discharge Instructions:
___ were admitted with chest pain and an abnormal heart rhythm 
called atrial fibrillation.  ___ did not have a heart attack.  
___ do not have blood clots in your legs. 
___ have been started on a new medication called Coumadin.  This 
is a blood thinnner. Dr ___ will need to check your 
bloodwork frequently while ___ are on this medication.  In 
addition, we have increased the dose of your Atenolol. 
Please take all medications as prescribed. Please keep all 
follow up appointments as listed below. 
Please seek immediate medical care if ___ develop recurrent 
chest pain or palpatations, or if ___ develop shortness of 
breath, weakness, difficulty speaking or any other worrisome 
symptoms. 
 
Followup Instructions:
___